US08835481B2
2-methyl-2-{[1-(1,2,3,4-tetrahydronaphth-1-yl)-1H-indazol-3-yl]methoxy}-propanoic acid
The product was prepared according to the procedure described in Example 6b), using as starting material 2-methyl-2-[(1-benzyl-1H-indazol-3-yl)methoxy]propanoic acid as starting material and 1-chloro-1,2,3,4-tetrahydronaphthalene as reagent.

reactant | 2-methyl-2-[(1-benzyl-1H-indazol-3-yl)methoxy]propanoic acid | CC(C(=O)O)(C)OCC1=NN(C2=CC=CC=C12)CC1=CC=CC=C1 | C19H20N2O3
reactant | 1-chloro-1,2,3,4-tetrahydronaphthalene | ClC1CCCC2=CC=CC=C12 | C10H11Cl
product | 2-methyl-2-{[1-(1,2,3,4-tetrahydronaphth-1-yl)-1H-indazol-3-yl]methoxy}-propanoic acid | CC(C(=O)O)(C)OCC1=NN(C2=CC=CC=C12)C1CCCC2=CC=CC=C12 | C22H24N2O3
